US07728176B2
A 100-ml four-necked flask was equipped with a stirrer, a thermometer, a dropping funnel and a reflux condenser. 0.0674 g (0.3 mmol) of palladium (II) acetate and 6 ml of tetrahydrofuran were weighed in the flask, followed by stirring. Further, 0.314 g (0.6 mmol) of tri-tert-butylphosphonium tetraphenylborate obtained in Example A-1 was weighed in air and added into the flask. The flask was purged with argon, followed by stirring at 19° C. for 30 minutes. 4.710 g (30 mmol) of bromobenzene was added, followed by stirring at 19° C. for 30 minutes. 40 ml (50 mmol) of 1.25M tetrahydrofuran solution of 4-vinylphenylmagnesium chloride was added dropwise at 19° C. over a period of 2 hours, followed by stirring at 30° C. for 2 hours. After the completion of the reaction, 10 ml of saturated aqueous ammonium chloride solution was added, followed by separation. The organic phase was purified by column chromatography to afford 4.450 g of 4-vinylbiphenyl (yield: 82 mol % based on bromobenzene). The identification of the product was made by mass spectroscopy.

reactant | bromobenzene | 30 mmol, 4.710 g | BrC1=CC=CC=C1 | C6H5Br
reactant | 4-vinylphenylmagnesium chloride | C(=C)C1=CC=C(C=C1)[Mg]Cl
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
catalyst | palladium (II) acetate | 0.3 mmol, 0.0674 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-tert-butylphosphonium tetraphenylborate | 0.6 mmol, 0.314 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mmol, 1.25M, 40 ml | O1CCCC1 | C4H8O
product | 4-vinylbiphenyl | 4.450 g | C(=C)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H12
